US06573270B1
2-{[5-amino-4-(1,3-benzodioxol-5-yl)-1-methyl-1H-pyrazol-3-yl]oxy}-1-ethanol
To a solution of 2-{[5-amino-4-(1,3-benzodioxol-5-yl)-1-methyl-1H-pyrazol-3-yl]oxy}ethyl acetate (100 mg) (Preparation 33) in ethanol (6 ml) at room temperature, was added sodium hydroxyde (10 mg). After one hour, the reaction was diluted with water (5 ml ) and an aqueous saturated solution of ammonium chloride (10 ml ). The mixture was extracted with ethyl acetate (3×6 ml). The organic fraction was dried over sodium sulfate and concentrated under reduced pressure to yield the title compound as a white solid (85 mg).

reactant | 2-{[5-amino-4-(1,3-benzodioxol-5-yl)-1-methyl-1H-pyrazol-3-yl]oxy}ethyl acetate | 100 mg | C(C)(=O)OCCOC1=NN(C(=C1C1=CC2=C(OCO2)C=C1)N)C | C15H17N3O5
reactant | sodium | [Na] | Na
reactant | ammonium chloride | 10 ml | [Cl-].[NH4+]
solvent | ethanol | 6 ml | C(C)O | C2H6O
solvent | water | 5 ml | O | H2O
product | 2-{[5-amino-4-(1,3-benzodioxol-5-yl)-1-methyl-1H-pyrazol-3-yl]oxy}-1-ethanol | 85 mg | NC1=C(C(=NN1C)OCCO)C1=CC2=C(OCO2)C=C1 | C13H15N3O4
